US07897767B2
Anhydrous hydrazine (0.640 mL, 20.2 mmol) was added to a suspension of 2-[(4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-2-yl)methoxy]-1H-isoindole-1,3(2H)-dione (2.81 g, 6.75 mmol) in ethanol (40 mL). Gradually, a solution formed from which a solid began to precipitate. The reaction mixture was stirred overnight at room temperature, then was concentrated under reduced pressure. The residue was triturated with 1 M aqueous hydrochloric acid (50 mL). The mixture was sonicated and the solid was isolated by filtration. The filtrate was adjusted to pH 8 with solid sodium carbonate and extracted with dichloromethane (3×25 mL). The organic layers were combined, dried over magnesium sulfate, filtered, and concentrated to afford a yellow solid. The solid was triturated with methanol to afford 0.863 g of 2-[(aminooxy)methyl]-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine as a white solid.

reactant | hydrazine | 20.2 mmol, 0.640 mL | NN | H4N2
reactant | 2-[(4-amino-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-2-yl)methoxy]-1H-isoindole-1,3(2H)-dione | 6.75 mmol, 2.81 g | NC1=NC=2C=CC=NC2C2=C1N=C(N2CC(C)C)CON2C(C1=CC=CC=C1C2=O)=O | C22H20N6O3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 2-[(aminooxy)methyl]-1-(2-methylpropyl)-1H-imidazo[4,5-c][1,5]naphthyridin-4-amine | 0.863 g | NOCC=1N(C2=C(C(=NC=3C=CC=NC23)N)N1)CC(C)C | C14H18N6O
